US06864396B2
A mixture of 92 grams of 2,5-bis(2,5-dimethybenzoyl)terephthalic acid in 1.5 L of tetrahydrofuran was treated with 9.2 grams of 10% palladium on carbon (as a catalyst) in an atmosphere of hydrogen at 270 kPa and 65° C. for 17 hours. The reaction mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give a solid. The solid was triturated with ethyl acetate, collected by filtration, and dried. To 75 grams of the solid was added 1250 grams of acetic acid, and the resulting mixture was heated to 117° C. for 30 minutes and cooled to room temperature. The resulting solid was collected by filtration and washed with acetic acid followed by heptane. The resulting residue was dried to give 2,5-bis(2,5-dimethybenzyl)terephthalic acid.

reactant | 2,5-bis(2,5-dimethybenzoyl)terephthalic acid | 92 grams | CC1=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=C(C=CC(=C2)C)C)=O)C=C(C=C1)C | C26H22O6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 9.2 grams | [Pd] | Pd
product | 2,5-bis(2,5-dimethybenzyl)terephthalic acid | CC1=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=C(C=CC(=C2)C)C)C=C(C=C1)C | C26H26O4
